* OVERALL BEST CANDIDATE: 00_Phase_2_3_3V_to_36V_Logic_Driver_Boost_g2_cand3_b3
* FITNESS SCORE: 0.9039
*
* Generated: 2026-06-04T23:45:58
* Constraint: Phase 2: 3.3V to 36V Logic Driver (Boost)
*   vin_min = 3.0
*   vin_max = 3.6
*   vout_target = 36
*   efficiency_target = 0.85
*   power_in = 50
* Candidate: 6 of 12
* Grouped name: g2_cand3
*
* 3.3V to 36V Boost, D=0.9167
Vin in 0 3.3
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 25.92
Vgate gate 0 PULSE(0 12 0 1n 1n 9.167u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
